US07834000B2
3,4-Dihydro-3-(1-(2-(3-isopropyl-4-oxo-2-phenylthiazolidin-5-yl)acetyl)piperidin-4-yl) quinazolin-2(1H)-one (Compound #255)
To a solution of 2-(3-isopropyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid (0.2 mmol, 56 mg), 1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one (0.15 mmol, 33 mg) and DIPEA (0.375 mmol, 65.3 μl) in 4:1 CH3CN:DMF (0.5 ml) was added HATU (0.18 mmol, 68 mg) and the reaction mixture was stirred at room temperature for 16 h. Purification by preparative reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave the title compound. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=493.5; tR=3.1. H NMR (400 MHz, CDCl3) δ 7.31-7.25 (m, 5H), 7.14-7.10 (m, 1H), 7.05 (s, 1H), 7.00 (m, 1H), 6.93-6.89 (m, 1H), 6.62 (d, J=7.8 Hz, 1H), 5.56 (m, 1H), 4.72 (m, 1H), 4.47-4.41 (m, 2H), 4.27-4.19 (m, 2H), 4.02-3.96 (m, 1H), 3.87 (m, 1H), 3.36-3.29 (m, 1H), 3.13-3.10 (m, 1H), 2.70 (m, 2H), 1.70-1.60 (m, 3H), 1.20 (dd, J=2.0, 6.9 Hz, 3H), 0.94 (m, 3H).

reactant | 2-(3-isopropyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid | 0.2 mmol, 56 mg | C(C)(C)N1C(SC(C1=O)CC(=O)O)C1=CC=CC=C1 | C14H17NO3S
reactant | 1-(piperidin-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.15 mmol, 33 mg | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | DIPEA | 0.375 mmol, 65.3 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | CH3CN | CC#N | C2H3N
product | 3,4-Dihydro-3-(1-(2-(3-isopropyl-4-oxo-2-phenylthiazolidin-5-yl)acetyl)piperidin-4-yl) quinazolin-2(1H)-one | C(C)(C)N1C(SC(C1=O)CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C1=CC=CC=C1 | C27H32N4O3S
